US08563723B2
N-(2-Bromo-4-{[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-2,2,2-trifluoro-acetamide
To a solution of 1.20 g N-ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboxamidine hydrochloride in 35 mL dry THF was added 5.1 mL (3.0 equiv.) BEMP and the reaction mixture was stirred for 10 minutes at room temperature. 2.15 g (1.0 equiv.) 3-Bromo-4-(2,2,2-trifluoro-acetylamino)-benzenesulfonyl chloride was added in one portion and the resulting bright yellow solution was stirred overnight at room temperature. The reaction mixture was acidified with 1N HCl and extracted twice with EA. The combined organic layers were dried over Na2SO4, filtered and evaporated under reduced pressure. Purification by flash chromatography (Et2O/PA 1:1→Et2O) afforded 2.29 g (78%) of product. 1H NMR (400 MHz, CDCl3) δ 1.18 (t, J=7.3 Hz, 3H), 1.24 (s, 6H), 3.43-3.51 (m, 2H), 3.79 (br.s, 2H), 6.78 (s, 1H), 7.93 (dd, J=8.6, 2.0 Hz, 1H), 8.19 (d, J=2.0 Hz, 1H), 8.39 (d, J=8.6 Hz, 1H), 8.61 (br.s., 1H).

reactant | N-ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboxamidine hydrochloride | 1.20 g | Cl.C(C)NC(=N)N1N=CC(C1)(C)C
reactant | BEMP | 5.1 mL, 3.0 equiv. | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 3-Bromo-4-(2,2,2-trifluoro-acetylamino)-benzenesulfonyl chloride | 2.15 g, 1.0 equiv. | BrC=1C=C(C=CC1NC(C(F)(F)F)=O)S(=O)(=O)Cl | C8H4BrClF3NO3S
reactant | HCl | 1N | Cl | ClH
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | N-(2-Bromo-4-{[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-2,2,2-trifluoro-acetamide | 2.29 g, 78% | BrC1=C(C=CC(=C1)S(N=C(NCC)N1N=CC(C1)(C)C)(=O)=O)NC(C(F)(F)F)=O | C16H19BrF3N5O3S
